US05929085
To a pressure bottle charged with (+)-3-ethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline (3.5 g) dissolved in methanol (100 ml) and saturated isopropanol-HCl (20 ml) was added 10% Pd--C (250 mg), and the reaction was hydrogenated for 1 h. The catalyst was removed by filtration and the solvent evaporated to give (+)-3-ethyl-1,2,3,4-tetrahydroisoquinolin-7-amine dihydrochloride (3.4 g), m.p. 199-200° C., [α]D +68.4° (c 0.976, methanol).

reactant | (+)-3-ethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline | 3.5 g | C(C)C1NCC2=CC(=CC=C2C1)[N+](=O)[O-] | C11H14N2O2
reactant | isopropanol-HCl | 20 ml | Cl.C(C)(C)O
solvent | methanol | 100 ml | CO | CH4O
product | (+)-3-ethyl-1,2,3,4-tetrahydroisoquinolin-7-amine dihydrochloride | 3.4 g | Cl.Cl.C(C)C1NCC2=CC(=CC=C2C1)N | InChI=1S/C11H16N2.2ClH/c1-2-11-6-8-3-4-10(12)5-9(8)7-13-11;;/h3-5,11,13H,2,6-7,12H2,1H3;2*1H
